US06458780B1
A 1 M ethylmagnesium bromide/THF solution (1.4 ml) was added under ice cooling to a solution of 0.31 g of 7-iodoimidazo[5,1-b]thiazole in 3 ml of dry THF in an argon atmosphere. The mixture was stirred at the same temperature for one hr. Methyl methanethiolsulfonate (0.15 ml) was added thereto. The mixture was stirred at room temperature for 12 hr. A saturated aqueous ammonium chloride solution was added to the reaction solution. Ethyl acetate was added thereto. The mixture was washed with a dilute aqueous sodium thiosulfate solution and saturated brine in that order. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (ethyl acetate) to give 0.15 g of 7-methylthioimidazo[5,1-b]thiazole.

reactant | ethylmagnesium bromide THF | 1 M, 1.4 ml | C(C)[Mg]Br.C1CCOC1
reactant | 7-iodoimidazo[5,1-b]thiazole | 0.31 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | Methyl methanethiolsulfonate | 0.15 ml | CSS(=O)(=O)C | C2H6O2S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-methylthioimidazo[5,1-b]thiazole | 0.15 g | CSC=1N=CN2C1SC=C2 | C6H6N2S2
